US09403805B2
(2S,4S)-4-Amino-1-benzyl-pyrrolidine-2-carboxylic acid methyl ester was prepared from (2S,4S)-4-azido-pyrrolidine-2-carboxylic acid methyl ester trifluoroacetate salt in a similar reaction sequence used in the preparation of (2S,4S)-4-amino-1-cyclohexylmethyl-pyrrolidine-2-carboxylic acid methyl ester. MS calcd. for C13H19N2O2 {(M+H)+} 235, obsd. 235.

reactant | (2S,4S)-4-azido-pyrrolidine-2-carboxylic acid methyl ester trifluoroacetate salt | FC(C(=O)O)(F)F.COC(=O)[C@H]1NC[C@H](C1)N=[N+]=[N-]
reactant | (2S,4S)-4-amino-1-cyclohexylmethyl-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1N(C[C@H](C1)N)CC1CCCCC1 | C13H24N2O2
product | (2S,4S)-4-Amino-1-benzyl-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1N(C[C@H](C1)N)CC1=CC=CC=C1 | C13H18N2O2
